US06596738B1
To an ice cooled solution of 1-[(2S,3R)-2-benzyloxy-5-(6-chloroindol-1-yl)-3-pentyl]imidazole-4-carboxamide (47.9 mg, 0.110 mmol) in chloroform (5 ml) was added trimethylsilyl iodide (42.6 mg, 0.213 mmol). After 3 minutes, the ice bath was removed, and then stirred at room temperature for 3 hours. The reaction was quenched by addition of methanol. This mixture was extracted with ethyl acetate, and the extracts were washed with brine, dried (sodium sulfate) and evaporated in vacuo. The residue was purified by silica gel (1.5 g) chromatography eluting with chloroform/methanol (50:1 to 10:1) to give 1-[(2S,3R)-5-(6-chloroindol-1-yl)-2-hydroxy-3-pentyl]imidazole-4-carboxamide (20.1 mg, 52.7%).

reactant | 1-[(2S,3R)-2-benzyloxy-5-(6-chloroindol-1-yl)-3-pentyl]imidazole-4-carboxamide | 0.110 mmol, 47.9 mg | C(C1=CC=CC=C1)O[C@@H](C)[C@@H](CCN1C=CC2=CC=C(C=C12)Cl)N1C=NC(=C1)C(=O)N | C24H25ClN4O2
reactant | trimethylsilyl iodide | 0.213 mmol, 42.6 mg | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-[(2S,3R)-5-(6-chloroindol-1-yl)-2-hydroxy-3-pentyl]imidazole-4-carboxamide | 20.1 mg, 52.7% | ClC1=CC=C2C=CN(C2=C1)CC[C@H]([C@H](C)O)N1C=NC(=C1)C(=O)N | C17H19ClN4O2
